US03956495
A mixture of 4 g of 2-chloro-4-morpholinoquinazoline, 5 ml of ethylenediamine, and 10 ml. of ethanol was heated at reflux overnight. The reaction mixture was diluted with 200 ml of water made alkaline with 15 ml of 50 percent aqueous sodium hydroxide solution, and extracted with one liter of ether. The ether extract was washed with water, dried over anhydrous sodium sulfate, filtered, and evaporated. The residue was dissolved in 500 ml of ether and treated with excess hydrogen chloride. The crude product was collected by filtration and recrystallized from the ether-ethanol, to give 1 g of 2-(2-aminoethylamino)-4-morpholinoquinazoline dihydrochloride; m.p. 292°-294° with decomposition. The following analytical data were obtained:

reactant | 2-chloro-4-morpholinoquinazoline | 4 g | ClC1=NC2=CC=CC=C2C(=N1)N1CCOCC1 | C12H12ClN3O
reactant | ethylenediamine | 5 ml | C(CN)N | C2H8N2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-(2-aminoethylamino)-4-morpholinoquinazoline dihydrochloride | 1 g | Cl.Cl.NCCNC1=NC2=CC=CC=C2C(=N1)N1CCOCC1 | InChI=1S/C14H19N5O.2ClH/c15-5-6-16-14-17-12-4-2-1-3-11(12)13(18-14)19-7-9-20-10-8-19;;/h1-4H,5-10,15H2,(H,16,17,18);2*1H
